US09212182B2
A RBF was charged with 5-(6-(benzylthio)-2-oxoquinolin-1(2H)-yl)-2-bromo-4-methoxybenzonitrile (798 mg, 1.672 mmol), acetonitrile (7867 μl), acetic acid (295 μl), and water (197 μl) to give a solution. The flask was cooled in an ice-water bath for 10 min, then 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (165 mg, 0.836 mmol) was added (0.5 equiv). After 10 min, an additional portion of 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (165 mg, 0.836 mmol) was added. After another 10 min, a final portion of 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (165 mg, 0.836 mmol) was added to the mixture. 2,3,4,5,6-pentafluorophenol (385 mg, 2.090 mmol) was added. After another minute, triethylamine (932 μl, 6.69 mmol) was added dropwise over 15 s. The mixture was stirred for 10 min then was diluted with water and EtOAc, and the layers were separated. The aq. layer was extracted with DCM (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was concentrated from EtOAc, then taken up in EtOAc and filtered. The collected solid was washed with EtOAc (3×), then dried under a stream of N2 (g) for 14 h to give perfluorophenyl 1-(4-bromo-5-cyano-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (566 mg, 0.941 mmol, 56.3% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) □=8.61 (d, J=2.3 Hz, 1 H), 8.27 (d, J=9.6 Hz, 1 H), 8.18 (s, 1H), 7.93 (dd, J=2.3, 9.0 Hz, 1 H), 7.88 (s, 1 H), 6.98 (d, J=9.0 Hz, 1 H), 6.90 (d, J=9.7 Hz, 1 H), 3.83 (s, 3 H). m/z (ESI) 601.0 (M+H)+.

reactant | 5-(6-(benzylthio)-2-oxoquinolin-1(2H)-yl)-2-bromo-4-methoxybenzonitrile | 1.672 mmol, 798 mg | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C=1C(=CC(=C(C#N)C1)Br)OC)=O | C24H17BrN2O2S
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 0.836 mmol, 165 mg | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 0.836 mmol, 165 mg | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 0.836 mmol, 165 mg | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | 2,3,4,5,6-pentafluorophenol | 2.090 mmol, 385 mg | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
reactant | triethylamine | 6.69 mmol, 932 μl | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | water | 197 μl | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetic acid | 295 μl | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 7867 μl | C(C)#N | C2H3N
product | perfluorophenyl 1-(4-bromo-5-cyano-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 0.941 mmol, 566 mg, 56.3% yield | BrC1=CC(=C(C=C1C#N)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C23H10BrF5N2O5S
